US08389553B2
(4S)-4-phenyl-1,3-oxazolidin-2-one (0.158 g, 0.968 mmol) was added to a stirred, 0° C. cooled mixture of sodium hydride (0.041 g, 1.014 mmol) in THF (2 ml) and the mixture was stirred at 0° C. for 15 min. 1,1-dimethylethyl 4-(bromomethyl)benzoate (0.25 g, 0.922 mmol) was then added and the reaction mixture was allowed to stirred at 0° C. for 30 min. Saturated ammonium chloride was added and the mixture was extracted with ethyl acetate (10 mL×2×). The combined organic fractions were dried over Na2SO4, filtered and the solvent was evaporated under reduced pressure to obtain 1,1-dimethylethyl 4-{[(4S)-2-oxo-4-phenyl-1,3-oxazolidin-3-yl]methyl}benzoate. The ester was taken to the next step without further purification.

reactant | (4S)-4-phenyl-1,3-oxazolidin-2-one | 0.968 mmol, 0.158 g | C1(=CC=CC=C1)[C@@H]1NC(OC1)=O | C9H9NO2
reactant | sodium hydride | 1.014 mmol, 0.041 g | [H-].[Na+]
reactant | 1,1-dimethylethyl 4-(bromomethyl)benzoate | 0.922 mmol, 0.25 g | BrCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H15BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl 4-{[(4S)-2-oxo-4-phenyl-1,3-oxazolidin-3-yl]methyl}benzoate | O=C1OC[C@@H](N1CC1=CC=C(C(=O)OC(C)(C)C)C=C1)C1=CC=CC=C1 | C21H23NO4
